US05637593
Ethyl 5-(4-methylphenoxy)indole-2-carboxylate (1.0 g, 3.39 mmol) was hydrolysed in methanolic NaOH (3.2M, 6.0 mL) at reflux, for 1 hr. After work-up the product: 5-(4-methylphenoxy)indole-2-carboxylic acid was obtained as an almost white solid, 0.92 g (ca 100%).

reactant | Ethyl 5-(4-methylphenoxy)indole-2-carboxylate | 3.39 mmol, 1.0 g | CC1=CC=C(OC=2C=C3C=C(NC3=CC2)C(=O)OCC)C=C1 | C18H17NO3
solvent | NaOH | 3.2M, 6.0 mL | [OH-].[Na+]
product | 5-(4-methylphenoxy)indole-2-carboxylic acid | CC1=CC=C(OC=2C=C3C=C(NC3=CC2)C(=O)O)C=C1 | C16H13NO3
